data/oMe_Silver.jsonl
{"reaction_id": "NR-102_1-C1CCCCC1_2-C(=O)OCC_3-c1ccc(Br)cc1","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(C1CCCCC1)(=S)N","C(c1ccc(Br)cc1)(=O)C(C(=O)OCC)Cl"],"products_smiles": ["C1CCCCC1c1nc(c1ccc(Br)cc1)c(C(=O)OCC)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C1CCCCC1)(=[NH2+])SC(C(=O)OCC)C(c1ccc(Br)cc1)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(=N)SC(C(=O)OCC)C(c1ccc(Br)cc1)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C1=[NH+]C(c1ccc(Br)cc1)(O)C(C(=O)OCC)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C1=NC(c1ccc(Br)cc1)([OH2+])C(C(=O)OCC)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1c1nc(c1ccc(Br)cc1)c(C(=O)OCC)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
{"reaction_id": "NR-330_1-OC(C)C_2-c1ccccc1_3-C_4-c1ccc(N(C)C)cc1_5-C(=O)c1ccccc1_6-C(C)(C)C_7-C1CCCCC1_8-c1ccc(N(C)C)cc1","level": "medium","name": "Rauhut-Currier Reaction","reactants_smiles": ["OC(C)CC(=O)C=C(c1ccccc1)C","C1CCCCC1C(=O)C(C(C)(C)C)=C(C(=O)c1ccccc1)c1ccc(N(C)C)cc1","P(c1ccc(N(C)C)cc1)(c1ccc(N(C)C)cc1)c1ccc(N(C)C)cc1"],"products_smiles": ["OC(C)CC(=O)C(=C(c1ccccc1)C)C(c1ccc(N(C)C)cc1)(C(=O)c1ccccc1)C(C(C)(C)C)C(=O)C1CCCCC1"],"conditions": "Nucleophilic Catalyst (e.g., P(n-Bu)3)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C)CC([O-])=CC(c1ccccc1)(C)[P+](c1ccc(N(C)C)cc1)(c1ccc(N(C)C)cc1)c1ccc(N(C)C)cc1","step_weight": 0,"rationale": "The phosphine's lone pair attacks the β-position of the electron-deficient alkene, favored by conjugation with the carbonyl, forming a zwitterionic intermediate stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C)CC(=O)C(C(c1ccccc1)(C)([P+](c1ccc(N(C)C)cc1)(c1ccc(N(C)C)cc1)c1ccc(N(C)C)cc1))C(c1ccc(N(C)C)cc1)(C(=O)c1ccccc1)C(C(C)(C)C)=C([O-])C1CCCCC1","step_weight": 0,"rationale": "The nucleophilic carbon in the phosphonium enolate intermediate attacks the β-position of the second activated alkene, driven by its strong electron-withdrawing carbonyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C)CC([O-])=C(C(c1ccccc1)(C)([P+](c1ccc(N(C)C)cc1)(c1ccc(N(C)C)cc1)c1ccc(N(C)C)cc1))C(c1ccc(N(C)C)cc1)(C(=O)c1ccccc1)C(C(C)(C)C)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Proton transfer occurs to stabilize the alkoxide and generate a neutral intermediate, facilitated by the basicity of the alkoxide and the acidity of nearby protons."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C)CC(=O)C(=C(c1ccccc1)C)C(c1ccc(N(C)C)cc1)(C(=O)c1ccccc1)C(C(C)(C)C)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Elimination of the phosphine regenerates the catalyst, driven by formation of a conjugated enone system, which is thermodynamically favored due to extended π-delocalization."}],"description": "A nucleophilic phosphine catalyst activates an electron-deficient alkene toward conjugate addition, enabling C–C bond formation between two Michael acceptors. Subsequent proton transfer and elimination regenerate the catalyst, yielding the conjugated enone product under mild conditions with high atom economy."}
